US08349833B2
Sodium (1 mol) was dissolved in anhydrous ethanol (400 mL). To the obtained solution, Piperidine-1-carboxamidine (0.5 mol) was carefully added in portions. Then 4-(2-ethoxycarbonyl-acetyl)-piperidine-1-carboxylic acid tert-butyl ester (0.5 mol) was added dropwise, and the mixture was stirred at reflux for 4-6 h (monitored by TLC), cooled to room temperature, concentrated, diluted with water (300 mL) and acidified with acetic acid to pH-4. The formed precipitate was collected by filtration, washed with water and dried to afford 4-(6-hydroxy-2-piperidin-1-yl-pyrimidin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (89 g, 49%).

reactant | Sodium | 1 mol | [Na] | Na
reactant | Piperidine-1-carboxamidine | 0.5 mol | N1(CCCCC1)C(=N)N | C6H13N3
reactant | 4-(2-ethoxycarbonyl-acetyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.5 mol | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC(=O)OCC)=O | C15H25NO5
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 4-(6-hydroxy-2-piperidin-1-yl-pyrimidin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 89 g, 49% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC(=NC(=C1)O)N1CCCCC1 | C19H30N4O3
